US06573263B2
Analogously to Example 10A, 9.75 g (42.3 mmol) of 2-(3,4-dimethoxyphenyl)ethanamidine hydrochloride are reacted with 2.54 g (50.7 mmol) of hydrazine hydrate and 12.8 g (63.4 mmol) of ethyl 3-(acetylamino)-2-oxopentanoate to give N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}acetamide.

reactant | 2-(3,4-dimethoxyphenyl)ethanamidine hydrochloride | 42.3 mmol, 9.75 g | Cl.COC=1C=C(C=CC1OC)CC(=N)N
reactant | hydrazine hydrate | 50.7 mmol, 2.54 g | O.NN
reactant | ethyl 3-(acetylamino)-2-oxopentanoate | 63.4 mmol, 12.8 g | C(C)(=O)NC(C(C(=O)OCC)=O)CC | C9H15NO4
product | N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}acetamide | COC=1C=C(CC2=NN=C(C(N2)=O)C(CC)NC(C)=O)C=CC1OC | C17H22N4O4
